US06306911B1
5g (21 mmol) 1-Iodonaphthalene (12a) was disolved in CH3CN and combined with a CH3CN solution of 1.73 g (3 mmol) Propargyl alcohol (12b). Than catalytic amounts of Dichlorobis(triphenylphosphinc)palladium and CuI. Triethylamine (10 ml) were added and stirred for about 4 hours at room temperature. The reaction mixture was filtered and concentrated. Chromatography with EtOAc/Hexane (15:85) gave 3.1 g 2-propyn-1-ol, 3-(1-naphthalenyl)—(12c) as a brown oil (99% yield). A CH2Cl2 solution of 0.81 g 12c, when treated with equimolar amounts of triphenyl phosphine (1.31 g) and carbon tetrachloride (1.66g) at 0-5° C. gave naphthalene, 1-(3-bromo-1-propynyl)—(12d) in almost quantitative yields. Upon coupling, reaction of 1.20 g of 12d with 0.908 g L-alanine t-butyl ester, diisopropylethyl amine and CH3CN, and overnight stirring at room temperature gave 0.403 g 12e after chromatographic separation. Removal of the t-butyl ester protecting group with a 1:1 mixture of TFA and CH2Cl2 at 0-5° C. gave 0.171 g of the title compound (M+=418).

reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | triphenyl phosphine | 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | carbon tetrachloride | 1.66g | C(Cl)(Cl)(Cl)Cl | CCl4
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
